US04302588
14.0 g of 1-methyl-8-benzyloxy-3,4-dihydrocarbostyril-5-ol-tetrahydropyranyl ether was added to 280 ml of methanol containing 80 ml of concentrated hydrochloric acid followed by stirring at room temperature for 10 minutes. The reaction mixture was rendered alkaline with sodium hydroxide, and the methanol evaporated under reduced pressure. The precipitated crystals were extracted with chloroform. The extract was washed with water and dried over anhydrous magnesium sulfate, and the chloroform was evaporated under reduced pressure. The residue was recrystallized from ethanol to afford 8.1 g of 1-methyl-5-hydroxy-8-benzyloxy-3,4-dihydrocarbostyril as colorless needle-like crystals having a melting point of 196°-197° C.

reactant | 1-methyl-8-benzyloxy-3,4-dihydrocarbostyril-5-ol tetrahydropyranyl ether | 14.0 g | CN1C(=O)CCC=2C(=CC=C(C12)OCC1=CC=CC=C1)O.O1C(CCCC1)OC1OCCCC1
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 280 ml | CO | CH4O
product | 1-methyl-5-hydroxy-8-benzyloxy-3,4-dihydrocarbostyril | 8.1 g | CN1C(=O)CCC2=C(C=CC(=C12)OCC1=CC=CC=C1)O | C17H17NO3
